US03948903
A suspension of 5.9 g. of 6-benzyl-1,2-dihydro-2-oxonicotinic acid in 60 ml. of tetrahydrofuran is treated with 2.04 ml. of thionyl chloride and six drops of dimethylformamide. The mixture is stirred at room temperature for 16 hours, then evaporated at reduced pressure to give a residue of 6-benzyl-1,2-dihydro-2-oxonicotinyl chloride. This acid chloride is dissolved in 90 ml. of tetrahydrofuran, the solution is cooled to 0°-5° C. and trated with an ice-cold solution of 7.59 g. of D-N-(trimethylsilyl)-2-phenylglycine trimethylsilyl ester in 60 ml. of tetrahydrofuran, then with 2.87 ml. of N-methylmorpholine. The mixture is stirred at 0°-5° C. for 1 hour, at room temperature for 2 hours, then poured into 500 ml. of water and the pH adjusted to 8.3 with saturated aqueous sodium bicarbonate. The solution is washed with several portions of ethyl acetate and the washings discarded. The solution is adjusted to pH 2.0 with 12% hydrochloric acid and extracted with several portions of ethyl acetate. The combined acetate extract is washed with water, dried and evaporated at reduced pressure to give D-(+)-N-(6-benzyl-1,2-dihydro-2-oxonicotinyl)-2-phenylglycine; m.p. 142°-145° C. after two crystallizations from acetonitrile; [α]D25 +23.0° (1.025% in tetrahydrofuran).

reactant | 6-benzyl-1,2-dihydro-2-oxonicotinic acid | C(C1=CC=CC=C1)C=1NC(C(C(=O)O)=CC1)=O | C13H11NO3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
catalyst | dimethylformamide | six drops | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-benzyl-1,2-dihydro-2-oxonicotinyl chloride | C(C1=CC=CC=C1)C=1NC(C(CCl)=CC1)=O | C13H12ClNO
